US05098599
In 100 ml of ethanol were dissolved 18 g of 1-bromo-n-decane and 9 g of 3-chloro-4-hydroxybenzoic acid, an aqueous solution of 40 g of sodium hydroxide in 100 ml of water was added to the above solution, and the mixture was heated and refluxed for 10 hours. Then the reacted solution was made weakly acidic by an addition of 1N hydrochloric acid and thrown in an enough quantity of water to precipitate the reaction product. The precipitate was recovered by filtration and recrystallized from ethanol to obtain 5 g of 3-chloro-4-decyloxybenzoic acid, then 15 g of thionyl chloride was added to 3 g of 3-chloro-4-decyloxybenzoic acid, and a reaction was carried out under reflux for 3 hours. The unreacted thionyl chloride was removed by distillation under a reduced pressure to obtain 3-chloro-4-decyloxybenzoic acid chloride quantitatively. Then the product was dissolved in a diethyl ether/THF (1/1) mixed solvent, 2.3 g of 4,4'-acetoxybiphenol and 2 g of triethylamine were added to the solution successively, and a reaction was carried out at room temperature with stirring overnight. The reacted solution was washed three times with 1N hydrochloric acid, a 1N aqueous solution of sodium hydrogencarbonate and water, in this order, and the organic phase was dried with anhydrous sodium sulfate. The solvent was evaporated, the reaction product was recovered by the silica gel chromatography, then the reaction product was dissolved in 100 ml of a THF/methanol (9/1) mixed solvent, a 1N aqueous solution of lithium hydroxide was added to the resulting solution which was cooled with ice-cold water, and a reaction was carried out with stirring for 30 minutes. Then the reacted solution was made weakly acidic by addition of 1N hydrochloric acid, extracted with a diethyl ether/benzene (1/1) mixed solvent, and the extract was washed three times with 1N hydrochloric acid, a 1N aqueous solution of sodium hydrogencarbonate and water in this order. The organic phase was recovered and dried with anhydrous magnesium sulfate, and the organic solvent was evaporated to obtain a product. The product was recrystallized from an n-hexane/ethanol mixed solvent. The compound in which Z is fluorine can be similarly obtained by using 3-fluoro-4-hydroxybenzoic acid instead of 3-chloro-4-hydroxybenzoic acid.

reactant | 1-bromo-n-decane | 18 g | BrCCCCCCCCCC | C10H21Br
reactant | 3-chloro-4-hydroxybenzoic acid | 9 g | ClC=1C=C(C(=O)O)C=CC1O | C7H5ClO3
reactant | sodium hydroxide | 40 g | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | 3-chloro-4-decyloxybenzoic acid | 5 g | ClC=1C=C(C(=O)O)C=CC1OCCCCCCCCCC | C17H25ClO3
